US04147780
The procedure described in Example 1C was repeated using DL-1-benzhydrylamino-p-chlorobenzylphosphonous acid as starting material instead of DL-1-benzhydrylamino-2-methylpropanephosphonous acid to give DL-1-amino-p-chlorophenylmethanephosphonous acid of melting point 228°-230° (dec.).

reactant | 1-benzhydrylamino-p-chlorobenzylphosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1(CP(O)O)CC=C(C=C1)Cl | C20H21ClNO2P
reactant | 1-benzhydrylamino-2-methylpropanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(C)C)P(O)O | C17H22NO2P
product | 1-amino-p-chlorophenylmethanephosphonous acid | NC1(CC=C(C=C1)Cl)CP(O)O | C7H11ClNO2P
